US04031221
A suspension of 4.0 g of 1-(indol-3-ylglyoxyloyl)-4-(p-tolyloxy)piperidine in 40 ml. of tetrahydrofuran is added dropwise to a stirred suspension of 2.1 g of lithium aluminum hydride in 60 ml. of tetrahydrofuran. After addition is complete the mixture is stirred and refluxed for 3 hours under nitrogen. After cooling, the excess hydride is carefully destroyed with water. The mixture is filtered, the filter cake is washed with tetrahydrofuran, and the filtrate is concentrated to a colorless oil under reduced pressure. The oil is kept under vacuum for 24 hours and then permitted to stand for several days. The oil slowly solidifies to a white solid. The solid is collected, washed with petroleum ether (b.p. 30°-60°) and recrystallized from an ethanol and water mixture to give white needles of 3-{2-[4-(p-tolyloxy)piperidyl]ethyl}indole, m.p. 115°-117° C.

reactant | 1-(indol-3-ylglyoxyloyl)-4-(p-tolyloxy)piperidine | 4.0 g | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)C)=O | C22H22N2O3
reactant | lithium aluminum hydride | 2.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{2-[4-(p-tolyloxy)piperidyl]ethyl}indole | C1(=CC=C(C=C1)OC1CCN(CC1)CCC1=CNC2=CC=CC=C12)C | C22H26N2O
